US04410534
A solution of 283 mg. of 3-p-toluoyl-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylic acid in 20 ml. of isoamyl alcohol is saturated with hydrogen chloride. After 24 hours, the excess alcohol is distilled off in vacuo and the residue purified by chromatography on alumina, to yield isoamyl 3-p-toluoyl-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylate.

reactant | 3-p-toluoyl-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylic acid | C1(=CC=C(C=C1)C(=O)C1=CC=C2N1CCCC2C(=O)O)C | C17H17NO3
reactant | hydrogen chloride | Cl | ClH
solvent | isoamyl alcohol | C(CC(C)C)O | C5H12O
product | isoamyl 3-p-toluoyl-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylate | C1(=CC=C(C=C1)C(=O)C1=CC=C2N1CCCC2C(=O)OCCC(C)C)C | C22H27NO3
